US05677155
A process for preparing the sex pheromone of Lymantria dispar L. effectively which comprises the steps of reacting 1-bromodecane and propargyl alcohol tetrahydropyranylether in the presence of sodium hydroxide to give 1-tetrahydropyranyloxy-2-tridecyne, treating the tetrahydropyranyloxy-2-tridecyne with p-toluenesulfonic acid to give 2-tridecyn-1-ol, catalystic-hydrogenating the 2-tridecyn-1-ol in the presence of Lindlar catalyst to give (Z)-2-tridecen-1-ol, oxidizing the (Z)-2-tridecen-1-ol with peroxide to give (±)-cis-2,3-epoxy-1-tridecanol, reacting the (±)-cis-2,3-epoxy-1-tridecanol with acid anhydride in the presence of hydrolase in an organic solvent for a stereoselective acylation and recovering unreacted optically active (2R, 3S)-cis-2,3-epoxy-1-tridecanol after the acylation, reacting the optically active (2R, 3S)-cis-2,3-epoxy-1-tridecanol with toluenesulfonylchloride to give (2R, 3S)-cis-1-p-toluenesulfoxy-2,3-epoxytridecane, and reacting the (2R, 3S)-cis-1-p-toluenesulfoxy-2,3-epoxytridecane with di(4-methylpentyl) lithium copper reagent to yield (7R, 8S)-cis-2-methyl-7,8-epoxyoctadecane which is the sex pheromone of Lymantria dispar L.

reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
reactant | propargyl alcohol tetrahydropyranylether | O1C(CCCC1)OCC#C | C8H12O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-tetrahydropyranyloxy-2-tridecyne | O1C(CCCC1)OCC#CCCCCCCCCCC | C18H32O2
